US05171744
(RS) Methyl 2-phenyl-2-(1H-1,2,4-triazol-1-yl)acetate
A mixture of (RS) methyl 2-bromo-2-phenylacetate (25 g), 1,2,4-triazole (8.28 g) and potassium carbonate (16.5 g) in aetonitrile (200 ml) was refluxed for 3 hours, cooled evaporated under reduced pressure and the residue partitioned between ethyl acetate and 10% potassium carbonate solution. The organic extracts were washed with water, extracted twice with 2M hydrochloric acid and the combined acid extracts, after washing once with ether, were basified with solid potassium carbonate and extracted with ethyl acetate. The organic extracts were dried over magnesium sulphate and evaporated under reduced pressure to give the title compound as a yellow oil (10.2 g, 43%).

reactant | (RS) methyl 2-bromo-2-phenylacetate | 25 g | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
reactant | 1,2,4-triazole | 8.28 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 16.5 g | C([O-])([O-])=O.[K+].[K+]
product | (RS) Methyl 2-phenyl-2-(1H-1,2,4-triazol-1-yl)acetate | 10.2 g, 43% | C1(=CC=CC=C1)C(C(=O)OC)N1N=CN=C1 | C11H11N3O2
